US05380858
4-(t-Butoxy-carbonyl-4-piperidyl) 1H-imidazole (Method B.)
To a suspension of 224 mg (1.00) mmol) of 4-(4-piperidyl)-1H-imidazole dihydrochloride in 10 ml of methanol was added 202 mg (2.00 mmol) of triethylamine (the suspension turned to a clear solution) followed by dropwise addition of 218 mg (1.00 mmol) of di-t-butyl dicarbonate in 5 ml methanol over a period of 10 minutes. The reaction mixture was stirred at 25° C. for 6 h, at the end of which the volatile materials were removed in vacuo. The oily residue was partitioned between 50 ml chloroform and 25 ml water. The organic layer was washed with 50 ml brine solution, then dried over anhydrous sodium sulfate. After filtration and removal of solvent, a pale yellow oil was obtained. The oil was treated with a mixture of methanol: petroleum ether (10:90). The resulting mixture was agitated vigorously with a glass rod until a solid appeared. After filtration and drying, time desired product was obtained as a white power. Yield: 65%; M.P.: 198° C.; MS: m/e 251 (M+); 1H NMR (CDCl3): imidazole H: δ7.60 (s, 1H) and 6.60 (s, 1H); piperidine H: δ4.20 (d, 2H), 2.80 (m, 4H), 2.20 (d, 2H), 1.60 (m, 1H), t-BOC H: 1.45 (s, 9H).

reactant | 4-(4-piperidyl)-1H-imidazole dihydrochloride | Cl.Cl.N1CCC(CC1)C=1N=CNC1
reactant | triethylamine | 2.00 mmol, 202 mg | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 1.00 mmol, 218 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 4-(t-Butoxy-carbonyl-4-piperidyl) 1H-imidazole | Yield: 65% | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1N=CNC1 | C13H21N3O2
